US04908386
N-[4-[2-[[6-[[2-(3-Hydroxyphenyl)-2-oxoethyl](phenylmethyl)amino]hexyl]oxy]ethyl]phenyl]acetamide
A solution of N-[4-[2-[[6-[(phenylmethyl)amino]hexyl]oxy]ethyl]phenyl]acetamide (1 g), 2-bromo-1-(3-hydroxyphenyl)ethanone (0.61 g) and DEA (0.8 g) in dichloromethane (20 ml) was stirred under nitrogen for 18 h, diluted with water (20 ml), and extracted with dichloromethane (25 ml). The organic layer was washed with 8% sodium bicarbonate solution (20 ml), dried and evaporated in vacuo to give the title compound as a yellow oil (0.71 g).

reactant | N-[4-[2-[[6-[(phenylmethyl)amino]hexyl]oxy]ethyl]phenyl]acetamide | 1 g | C1(=CC=CC=C1)CNCCCCCCOCCC1=CC=C(C=C1)NC(C)=O | C23H32N2O2
reactant | 2-bromo-1-(3-hydroxyphenyl)ethanone | 0.61 g | BrCC(=O)C1=CC(=CC=C1)O | C8H7BrO2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | N-[4-[2-[[6-[[2-(3-Hydroxyphenyl)-2-oxoethyl](phenylmethyl)amino]hexyl]oxy]ethyl]phenyl]acetamide | 0.71 g | OC=1C=C(C=CC1)C(CN(CCCCCCOCCC1=CC=C(C=C1)NC(C)=O)CC1=CC=CC=C1)=O | C31H38N2O4
